US07612114B2
6-{4-Methoxy-2-{{4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}propylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and 2-chloro-1-(4-methylpiperidin-1-yl)ethanone (21 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (19 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | OC1=CC=C(C(=O)CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO5
reactant | 2-chloro-1-(4-methylpiperidin-1-yl)ethanone | 21 mg | ClCC(=O)N1CCC(CC1)C | C8H14ClNO
product | 6-{4-Methoxy-2-{{4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}propylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 19 mg | COC1=CC(=C(C=C1)C1CC=2C=CC(=CC2CC1)O)NCCCCC1=CC=C(C=C1)OCCN1CCC(CC1)C | C35H46N2O3
